US04446151
(G) 1,1-Difluoro-2,5-diamino-4-methylene-pentane, dihydrochloride
1,1-Difluoro-2,5-di-t-butoxycarbonylamino-4-methylene-pentane (3.3 g, 9.4 mmoles) is dissolved in dry ether saturated with hydrogen chloride gas. After standing overnight, the hygroscopic solid obtained is recrystallized twice from methanol/methylene chloride (1.49 g, 71%).

reactant | 1,1-Difluoro-2,5-di-t-butoxycarbonylamino-4-methylene-pentane | 9.4 mmoles, 3.3 g | FC(C(CC(CNC(=O)OC(C)(C)C)=C)NC(=O)OC(C)(C)C)F | C16H28F2N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 1,1-Difluoro-2,5-diamino-4-methylene-pentane, dihydrochloride | Cl.Cl.FC(C(CC(CN)=C)N)F | InChI=1S/C6H12F2N2.2ClH/c1-4(3-9)2-5(10)6(7)8;;/h5-6H,1-3,9-10H2;2*1H
